* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=1.38743750331e-09
.param C2=9.10279497283e-12
.param Csh=9.99637163286e-11
.param L1=1.35664498683e-07
.param Vsrc_amp=613.948982651
.param ne=3.86171506486e+14
.param nu_m=159714067.629

* Sources
Vsrc src 0 SIN(0 613.948982651 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 45.7833276679
Lbulk nb ns 2.86658078073e-07
Csh ns n 9.99637163286e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
